US08912186B2
By a procedure similar to that of example 1.4, starting from commercial 4-chloro-5-fluoro-1,2-phenylenediamine and 3-(4-chlorophenyl)glutaric anhydride, 4-(5-chloro-6-fluoro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl was obtained as light greyish solid.

reactant | 4-chloro-5-fluoro-1,2-phenylenediamine | ClC1=CC(=C(C=C1F)N)N | C6H6ClFN2
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 4-(5-chloro-6-fluoro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl | ClC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC=C(C=C2)Cl)C=C1F.Cl | InChI=1S/C17H13Cl2FN2O2.ClH/c18-11-3-1-9(2-4-11)10(6-17(23)24)5-16-21-14-7-12(19)13(20)8-15(14)22-16;/h1-4,7-8,10H,5-6H2,(H,21,22)(H,23,24);1H
